US08138173B2
(4-Oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetic acid (8.83 g, 27.7 mmol) was suspended in 175 mL of chloroform. Twenty drops of DMF were added followed by oxalyl chloride (7.2 mL, 83.0 mmol). The reaction mixture was stirred at ambient temperature for 1 hour and concentrated under reduced pressure at 40° C. to afford crude (4-chloro-2-phenyl-2H-pyrazolo[3,4-c]quinolin-1-yl)acetyl chloride.

reactant | (4-Oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetic acid | 27.7 mmol, 8.83 g | O=C1NC=2C=CC=CC2C=2C1=NN(C2CC(=O)O)C2=CC=CC=C2 | C18H13N3O3
reactant | oxalyl chloride | 83.0 mmol, 7.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | chloroform | 175 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | DMF | Twenty drops | CN(C)C=O | C3H7NO
product | (4-chloro-2-phenyl-2H-pyrazolo[3,4-c]quinolin-1-yl)acetyl chloride | ClC1=NC=2C=CC=CC2C=2C1=NN(C2CC(=O)Cl)C2=CC=CC=C2 | C18H11Cl2N3O
